US08729263B2
Synthesis of 5-pyrazol-1-yl-2-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-pyridazin-3-yl]-phenol
tert-Butyl 4-(6-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)pyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (50 mg, 0.12 mmol) was dissolved in DCM (0.6 mL). The solution was cooled to −78° C. and 1 M BBr3 in DCM (0.6 mL) was added dropwise. The resulting suspension was removed from the ice bath and stirred at RT overnight. The reaction was quenched with water, diluted with MeOH then adsorbed onto a MeOH conditioned SCX column. The column was washed several times (5-7 column volumes) with MeOH then eluted with 2 N NH3 in MeOH to provide the desired product, 5-(1H-pyrazol-1-yl)-2-(6-(1,2,3,6-tetrahydropyridin-4-yl)pyridazin-3-yl)phenol, (9.7 mg, 0.03 mmol, 25% yield). LCMS Rt=0.49 min, M+1=320.1 (LCMS method Q). 1H NMR (DMSO-d6) δ 8.64 (d, J=2.3 Hz, 1H), 8.52 (d, J=9.5 Hz, 1H), 8.19 (dd, J=9.0, 3.0 Hz, 2H), 7.80 (d, J=1.3 Hz, 1H), 7.43-7.61 (m, 2H), 6.89-7.03 (m, 1H), 6.52-6.66 (m, 1H), 3.56-3.73 (m, 2H), 3.02-3.15 (m, 2H), 2.66-2.74 (m, 2H).

reactant | tert-Butyl 4-(6-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)pyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.12 mmol, 50 mg | COC1=C(C=CC(=C1)N1N=CC=C1)C1=CC=C(N=N1)C1=CCN(CC1)C(=O)OC(C)(C)C | C24H27N5O3
reactant | BBr3 | 1 M | B(Br)(Br)Br | BBr3
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
product | 5-(1H-pyrazol-1-yl)-2-(6-(1,2,3,6-tetrahydropyridin-4-yl)pyridazin-3-yl)phenol | 0.03 mmol, 9.7 mg, 25% yield | N1(N=CC=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)C=1CCNCC1 | C18H17N5O
